2101-11-12 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-11-11**] 09:15 AM
   new art line
 TRANSTHORACIC ECHO - At [**2101-11-11**] 10:43 AM
 BLOOD CULTURED - At [**2101-11-11**] 11:00 AM
   l subclavian osh
 SPUTUM CULTURE - At [**2101-11-11**] 11:00 AM
 URINE CULTURE - At [**2101-11-11**] 11:00 AM
   Patient started on Lasix drip; however, found to be increasingly
   tachycardic, CVP=5 so lasix drip held, patient received fluid bolus
   Patient had RIJ pulled at approximately 9am this morning; after pull,
   patient experienced brief episode of facial twitching mainly on right
   side, did not appear to be responsive; after approximately 45 seconds
   patient stopped twitching, smiled and appeared to be more responsive
   towards resident
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-11-11**] 01:45 AM
   Cefipime - [**2101-11-11**] 02:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-11-11**] 07:37 AM
   Heparin Sodium (Prophylaxis) - [**2101-11-11**] 09:00 AM
   Dextrose 50% - [**2101-11-11**] 04:08 PM
   Fentanyl - [**2101-11-11**] 04:50 PM
   Midazolam (Versed) - [**2101-11-11**] 05:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-12**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 110 (87 - 113) bpm
   BP: 92/44(60) {86/42(59) - 130/66(92)} mmHg
   RR: 21 (14 - 48) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
    CVP: 8 (5 - 13)mmHg
   Total In:
                                                                    665 mL
                                                                    129 mL
   PO:
   TF:
   IVF:
                                                                    415 mL
                                                                    129 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,730 mL
                                                                    565 mL
   Urine:
                                                                  2,730 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,065 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 482 (435 - 482) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 59
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   404 K/uL
   9.3 g/dL
   52 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.5 mEq/L
   28 mg/dL
   109 mEq/L
   147 mEq/L
   29.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2101-11-11**]  12:36 AM
                            [**2101-11-11**]  12:56 AM
                            [**2101-11-11**]  06:09 AM
                            [**2101-11-11**]  02:45 PM
                            [**2101-11-12**]  02:42 AM
   WBC
   11.8
   10.9
   Hct
   32.4
   29.2
   Plt
   456
   404
   Cr
   0.7
   0.6
   TropT
   0.40
   0.41
   0.41
   0.48
   TCO2
   37
   Glucose
   80
   52
   52
   Other labs: PT / PTT / INR:14.3/26.8/1.2, CK / CKMB /
   Troponin-T:33//0.48, ALT / AST:24/31, Alk Phos / T Bili:236/0.5,
   Differential-Neuts:60.1 %, Lymph:18.5 %, Mono:6.2 %, Eos:14.8 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.  Overnight,
   patient has been tachycardic and hypotensive. Lasix drip stopped, given
   total fluid bolus of 750 ml.
   #.Failure to wean from ventilator: Patient has a history of COPD, per
   notes from outside hospital it appears that he was felt to have severe
   COPD and on home O2 and steroids. Patient has failed to wean from
   ventilator; bronchoscopy done at OSH suggested possible
   tracheobronchomalacia. Patient was seen and evaluated by IP on arrival;
   per their notes, they will plan on flexible bronchoscopy once medically
   stabilized. Also in OSH notes there is some report of ?Aspergillus in
   sputum, ?ABPA, but felt not to be cause of his PNA; however, this would
   also fit with eosinophilia. Patient does appear to have significant
   bronchiectasis on CXR which is also a likely explanation for why he may
   be failing to wean from ventilator.
   -IP following, will plan on flex bronchoscopy; patient is now medically
   clear per cardiology
   -ABG to assess current respiratory status on ventilator
   -IgE levels Aspergillus
   #Elevated troponins: Patient was seen and evaluated by Cardiology; per
   the history they obtained from him, they found no evidence of chest
   pain symptoms, and felt that because he is asymptomatic at this time,
   and it is unlikely that his presentation is a true acute coronary
   syndrome requiring emergent cardiac catheterization. Troponins have
   remained stable. Per history that we were able to obtain with a
   translator he has not had any chest pain. One concern is that he may
   have an element of demand ischemia, especially given that he appears to
   be atrial paced at a rate of 90 bpm.
   -Continue ASA
   -Check lipids with AM labs
   -EP consult as patient appears to be atrial paced at rate of 90bpm
   -Beta blocker to help with rate control down to where he has been
   Atrial paced (currently HR 100s-120s)
   -Cardiology has signed off, feel patient stable for any intervention
   that IP wishes.
   .
   #Right eye injection/macular rash around orbit: Patient does describe
   pain in right eye, pain with movement of right eye, difficulty with
   vision out of right eye. Patient was seen by ID & opthomology at OSH,
   initially on Acyclovir, but optho felt that not consistent with
   herpetic eye involvement, most likely chronic conjunctival chemosis.
   Currently no vesicular rash around eye so nothing to biopsy.
   -Ophtho consult in AM as unclear what plan for management of eye was at
   OSH, and patient appears to be experiencing new/worsening symptoms
   # Facial twitching: Appeared as though this may have been a possible
   seizure, though patient did not have clear post-ictal state. Concern
   also for possible air embolus given that episode happened in the
   context of RIJ pull. Will continue to monitor for further signs of
   seizure. Will also need head CT eventually
   -EEG
   -Monitor for signs of seizures
   #Anasarca: Patient was receiving diuresis at OSH; received up to Lasix
   80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission (presumably dry weight) was
   62 kg. [**Month (only) 51**] be preload dependent given degree of hypotension experienced
   with Lasix.
   -D/c lasix for now as patient appears to be tolerating this poorly,
   becoming tachycardic and hypotensive.
   -Will try to keep patient mildly net negative each day
   #.Leukocytosis: patient was transfered on multiple antibiotics for
   several infections he experienced during 2 months at OSH. At this time,
   he has been taken off all antibiotics, and has been afebrile. However,
   does have mild leukcocytosis (11.8). Will continue to monitor. Sputum
   culture shows  >25 PMNs and <10 epithelial cells/100X field, as well as
   1+ gram neg rods. [**Month (only) 51**] represent colonization with pseudomonas given his
   trach. Will plan to treat if patient becomes febrile. Patient also has
   significant history of diarrhea, so will plan to send C.diff cultures.
   -Monitor fever curve
   -F/u pan culture
   -Stool for C.diff
   -Send galactomannan to assess for possible aspergillosis
   #Eosinophilia: Presented to OSH with eosinophilia; however, it
   subsequently normalized. [**Month (only) 51**] be secondary to adrenal insufficiency
   (patient was on prednisone for unknown amount of time on arrival to
   OSH, unclear how much this was continued), may be secondary to
   parasitic infection given recent travel to [**Country **]; may be secondary
   to medication.
   -Stool for O&P x3
   -AM cortisol
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   .
   #.Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased ferritin.
   Patient also receiving frequent blood draws which may be contributing
   to drop in HCT as well. Relatively stable this morning (of note,
   patient had multiple attempts at central line placement yesterday).
   (HCT 32.4 yesterday
 29.2 today).
   -Guiaic stools
   -Daily HCT, minimize unecassary lab draws
   .
   #Elevated alk phos: Alk phos elevated at 236. [**Month (only) 51**] be a continued
   sequelae of shock liver. Will plan to continue to monitor in a few
   days. If continues to be elevated, may consider getting GGT to
   differentiate if this is secondary to increased bone turnover secondary
   to chronic bedbound state.
   -Continue to monitor
   .
   #Hypokalemia: Replete potassium as needed.
   #Hypernatremia: free water flushes via PEG (150 ml q6 hours)
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   .
   FEN: Tube feeds via PEG tube
   .
   PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   .
   ACCESS: Left subclavian in place from OSH. Plan is to d/c left
   subclavian and send tip for culture, PICC placement (if can be done
   over the weekend) vs. LIJ
   CODE STATUS: No right heart cath, full code.
   .
   EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   Multi Lumen - [**2101-11-10**] 11:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-13 01:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2101-11-11**] 09:15 AM
   new art line
 TRANSTHORACIC ECHO - At [**2101-11-11**] 10:43 AM
 BLOOD CULTURED - At [**2101-11-11**] 11:00 AM
   l subclavian osh
 SPUTUM CULTURE - At [**2101-11-11**] 11:00 AM
 URINE CULTURE - At [**2101-11-11**] 11:00 AM
 MULTI LUMEN - START [**2101-11-11**] 01:41 PM
 MULTI LUMEN - STOP [**2101-11-11**] 02:44 PM
 MULTI LUMEN - START [**2101-11-11**] 05:02 PM
 MULTI LUMEN - STOP [**2101-11-11**] 06:05 PM
 MULTI LUMEN - START [**2101-11-12**] 06:34 AM
   not to use line; tip ends in Left IJ from Right IJ; line needs to be
   repositioned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-11-11**] 01:45 AM
   Cefipime - [**2101-11-11**] 02:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-13**] 01:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 117 (98 - 124) bpm
   BP: 114/63(82) {76/41(54) - 114/63(82)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 4 (1 - 13)mmHg
   Total In:
                                                                  2,150 mL
                                                                     18 mL
   PO:
   TF:
                                                                    500 mL
   IVF:
                                                                  1,590 mL
                                                                     18 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    155 mL
   Urine:
                                                                  1,190 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (508 - 1,002) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 59
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.46/38/91.[**Numeric Identifier 143**]/29/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 307
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   363 K/uL
   8.8 g/dL
   112 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   27 mg/dL
   112 mEq/L
   146 mEq/L
   26.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2101-11-11**]  12:36 AM
                            [**2101-11-11**]  12:56 AM
                            [**2101-11-11**]  06:09 AM
                            [**2101-11-11**]  02:45 PM
                            [**2101-11-12**]  02:42 AM
                            [**2101-11-12**]  04:44 PM
                            [**2101-11-12**]  05:16 PM
   WBC
   11.8
   10.9
   11.4
   Hct
   32.4
   29.2
   26.5
   Plt
   [**Telephone/Fax (3) 11151**]
   Cr
   0.7
   0.6
   0.7
   TropT
   0.40
   0.41
   0.41
   0.48
   TCO2
   37
   28
   Glucose
   80
   52
   52
   112
   Other labs: PT / PTT / INR:14.2/30.8/1.2, CK / CKMB /
   Troponin-T:33//0.48, ALT / AST:24/31, Alk Phos / T Bili:236/0.5,
   Differential-Neuts:60.1 %, Lymph:18.5 %, Mono:6.2 %, Eos:14.8 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.  Overnight,
   patient has been tachycardic and hypotensive. Lasix drip stopped, given
   total fluid bolus of 750 ml.
   #.Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronciectasis.  Bronch at OSH with
   ?tracheobronchomalacia.  IP plans to preform flexible bronchoscopy once
   medically stabilized. From OSH ?Aspergillus in sputum, ?ABPA, but felt
   not to be cause of his PNA; however, this would also fit with
   eosinophilia. Patient does appear to have significant bronchiectasis on
   CXR which is also a likely explanation for why he may be failing to
   wean from ventilator.
   -IP following, will plan on flex bronchoscopy; patient is now medically
   clear per cardiology
   -ABG to assess current respiratory status on ventilator
   -IgE levels Aspergillus
   #Elevated troponins: Patient was seen and evaluated by Cardiology; per
   the history they obtained from him, they found no evidence of chest
   pain symptoms, and felt that because he is asymptomatic at this time,
   and it is unlikely that his presentation is a true acute coronary
   syndrome requiring emergent cardiac catheterization. Troponins have
   remained stable. Per history that we were able to obtain with a
   translator he has not had any chest pain. One concern is that he may
   have an element of demand ischemia, especially given that he appears to
   be atrial paced at a rate of 90 bpm.
   -Continue ASA
   -Check lipids with AM labs
   -EP consult as patient appears to be atrial paced at rate of 90bpm
   -Beta blocker to help with rate control down to where he has been
   Atrial paced (currently HR 100s-120s)
   -Cardiology has signed off, feel patient stable for any intervention
   that IP wishes.
   #Right eye injection/macular rash around orbit: Patient does describe
   pain in right eye, pain with movement of right eye, difficulty with
   vision out of right eye. Patient was seen by ID & opthomology at OSH,
   initially on Acyclovir, but optho felt that not consistent with
   herpetic eye involvement, most likely chronic conjunctival chemosis.
   Currently no vesicular rash around eye so nothing to biopsy.
   -Ophtho consult in AM as unclear what plan for management of eye was at
   OSH, and patient appears to be experiencing new/worsening symptoms
   # Facial twitching: Appeared as though this may have been a possible
   seizure, though patient did not have clear post-ictal state. Concern
   also for possible air embolus given that episode happened in the
   context of RIJ pull. Will continue to monitor for further signs of
   seizure. Will also need head CT eventually
   -EEG
   -Monitor for signs of seizures
   #Anasarca: Patient was receiving diuresis at OSH; received up to Lasix
   80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission (presumably dry weight) was
   62 kg. [**Month (only) 51**] be preload dependent given degree of hypotension experienced
   with Lasix.
   -D/c lasix for now as patient appears to be tolerating this poorly,
   becoming tachycardic and hypotensive.
   -Will try to keep patient mildly net negative each day
   #.Leukocytosis: patient was transfered on multiple antibiotics for
   several infections he experienced during 2 months at OSH. At this time,
   he has been taken off all antibiotics, and has been afebrile. However,
   does have mild leukcocytosis (11.8). Will continue to monitor. Sputum
   culture shows  >25 PMNs and <10 epithelial cells/100X field, as well as
   1+ gram neg rods. [**Month (only) 51**] represent colonization with pseudomonas given his
   trach. Will plan to treat if patient becomes febrile. Patient also has
   significant history of diarrhea, so will plan to send C.diff cultures.
   -Monitor fever curve
   -F/u pan culture
   -Stool for C.diff
   -Send galactomannan to assess for possible aspergillosis
   #Eosinophilia: Presented to OSH with eosinophilia; however, it
   subsequently normalized. [**Month (only) 51**] be secondary to adrenal insufficiency
   (patient was on prednisone for unknown amount of time on arrival to
   OSH, unclear how much this was continued), may be secondary to
   parasitic infection given recent travel to [**Country **]; may be secondary
   to medication.
   -Stool for O&P x3
   -AM cortisol
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   #.Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased ferritin.
   Patient also receiving frequent blood draws which may be contributing
   to drop in HCT as well. Relatively stable this morning (of note,
   patient had multiple attempts at central line placement yesterday).
   (HCT 32.4 yesterday
 29.2 today).
   -Guiaic stools
   -Daily HCT, minimize unecassary lab draws
   #Elevated alk phos: Alk phos elevated at 236. [**Month (only) 51**] be a continued
   sequelae of shock liver. Will plan to continue to monitor in a few
   days. If continues to be elevated, may consider getting GGT to
   differentiate if this is secondary to increased bone turnover secondary
   to chronic bedbound state.
   -Continue to monitor
   #Hypokalemia: Replete potassium as needed.
   #Hypernatremia: free water flushes via PEG (150 ml q6 hours)
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   FEN: Tube feeds via PEG tube
   PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   ACCESS: Left subclavian in place from OSH. Plan is to d/c left
   subclavian and send tip for culture, PICC placement (if can be done
   over the weekend) vs. LIJ
   CODE STATUS: No right heart cath, full code.
   EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   Multi Lumen - [**2101-11-10**] 11:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-13 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Brief episode of altered responsiveness with right sided twitching
   after pulling the IJ, cleared after several minutes, concern for
   seizure vs air embolism
   - EEG done
   - f/u IP?
   - IgE level sent to evaluate for ABPA from aspergillosus
   - lipids...
   - home metoprolol started
   - PICC to be placed tomorrow, then SC should be pulled
   - will wait on optho c/s given that it does not appear that there is an
   emergent condition, call on Monday
   - EP c/s when HR lowers so that pacemaker funcation can be evaluated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-11-11**] 01:45 AM
   Cefipime - [**2101-11-11**] 02:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-13**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 110 (98 - 124) bpm
   BP: 115/61(81) {82/41(57) - 122/65(86)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 4 (1 - 13)mmHg
   Total In:
                                                                  2,300 mL
                                                                    425 mL
   PO:
   TF:
                                                                    649 mL
                                                                    351 mL
   IVF:
                                                                  1,590 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    355 mL
   Urine:
                                                                  1,190 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,110 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (508 - 1,002) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 44
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.46/38/91.[**Numeric Identifier 143**]/30/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 307
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   343 K/uL
   9.0 g/dL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   146 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2101-11-11**]  12:36 AM
                            [**2101-11-11**]  12:56 AM
                            [**2101-11-11**]  06:09 AM
                            [**2101-11-11**]  02:45 PM
                            [**2101-11-12**]  02:42 AM
                            [**2101-11-12**]  04:44 PM
                            [**2101-11-12**]  05:16 PM
                             [**2101-11-13**]  01:47 AM
   WBC
   11.8
   10.9
   11.4
   10.9
   Hct
   32.4
   29.2
   26.5
   27.2
   Plt
   [**Telephone/Fax (3) 11155**]43
   Cr
   0.7
   0.6
   0.7
   0.7
   TropT
   0.40
   0.41
   0.41
   0.48
   TCO2
   37
   28
   Glucose
   80
   52
   52
   112
   133
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:33//0.48, ALT / AST:24/31, Alk Phos / T Bili:236/0.5,
   Differential-Neuts:60.1 %, Lymph:18.5 %, Mono:6.2 %, Eos:14.8 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Cortisol 1.8
   Imaging: CXR
   Microbiology: C. diff negative, O&P pending
   Blood and urine negative to date
   Sputum with 2 types GNR
   Assessment and Plan
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronciectasis.  Bronch at OSH with
   ?tracheobronchomalacia.  IP plans to preform flexible bronchoscopy once
   medically stabilized, which from our stand point he is. From OSH
   ?Aspergillus in sputum, ?ABPA.
   -IP following, will plan on flex bronchoscopy; patient is now medically
   clear
   -f/u IgE levels Aspergillus
   - formal airway CT
   - collect further hx from family about previous respiratory status
   - wean from vent
   #. Seizure: Presumed seizure since he was unresponsive and twitching.
   No further episodes overnight.
   - EEG pending
   - CT head
   #. Elevated troponins: No CP, Trops stable.  Cards eval, and does not
   require emergent cardiac catheterization. Possible demand ischemia, in
   setting of tachycardia and hypotension.   Beta blocker started
   yesterday.  Lipids normal.
   -Continue ASA
   -When HR decreased so that pacer spikes can be viewed consider EP
   consult
   #. Leukocytosis: Afebrile off all antibiotics with mild leukocytosis
   but trending down, sputum culture shows  2 species GNR.  Colonization
   vs infection. Patient also has significant history of diarrhea, C. diff
   neg.  With central line from OSH.
   - PICC today, pull SC and send tip for Cx.
   -Monitor fever curve, treat if becomes febrile
   -F/u cultures
   -Stool for C.diff
   -F/u  galactomannan to assess for aspergillosis
   #. Anasarca: Patient was receiving diuresis at OSH; received up to
   Lasix 80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission (presumably dry weight) was
   62 kg. Making adequte UOP but lasix held given boarderline BP.
   - Will try to keep patient mildly net negative each day
   - Low dose lasix gtt
   #. Eosinophilia: Presented to OSH with eosinophilia which normalized
   now 14%. Concern for adrenal insufficiency, random Cortisol 1.8. Recent
   travel to [**Country **],  may be secondary to parasitic infection.  Also
   concern for drug reaction
   -Stool for O&P x3
   -[**Last Name (un) **] Stim test
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   #. Anemia: Hct stable, likely anemia of chronic disease given long
   hospital course; iron studies consistent, with decreased TIBC and
   increased ferritin.
   -Guiaic stools
   -Daily HCT, minimize unecassary lab draws
   #. Right eye injection/macular orbital rash: Patient does describe pain
   in right eye, pain with movement, and difficulty with vision. Patient
   was seen by ID & opthomology at OSH, initially on Acyclovir, but optho
   felt that not consistent with herpetic eye involvement, most likely
   chronic conjunctival chemosis. Currently no vesicular rash around eye
   so nothing to biopsy.
   -Ophtho consult in Monday if worsens, appears more likely chronic.
   #. Elevated alk phos: Alk phos elevated at 236. [**Month (only) 51**] be a continued
   sequelae of shock liver. Will plan to continue to monitor in a few
   days. If continues to be elevated, may consider getting GGT to
   differentiate if this is secondary to increased bone turnover secondary
   to chronic bedbound state.
   -Continue to monitor
   #Hypokalemia: Resolved.
   #Hypernatremia: 146
   - increase free water flushes via PEG to 150 ml q4hr
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   #. FEN: Tube feeds via PEG tube
   #. PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   #. ACCESS: Left subclavian in place from OSH. Plan is to d/c left
   subclavian and send tip for culture, PICC placement (if can be done
   over the weekend) vs. LIJ
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   Multi Lumen - [**2101-11-10**] 11:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-14 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   --CT head done  --> formal CT chest for TBM protocol was deferred until
   today so that chest rads people could be there to do it right
   --L subclavian line pulled  --> cath tip pending
   --Respiratory status before [**8-21**]--Per family, just before
   hospitalization, pt was able to climb stairs (lives on 2nd story, able
   to get up and down OK), able to walk .5 mile to sister's house, would
   get tired sometimes and have to take a break, but was able to do ADL's.
   Was using inhalers and home O2 (but home O2 only <1 mo duration).
   Overall, seems like pt wasn't fully limited by COPD before [**8-21**]
   hospitalization.
   --Increased free H2O to 250cc/q6 --> then to 250cc/q4
   --[**Last Name (un) **] stim test 1.0 --> 5.5 after 1 mcg cosyntropin
   --Lasix 5mg/hr IV gtt
   --Cdiff negative x2 and O&P NGTD x2
   --Iron studies c/w ACD
   --IgE, Aspergillus, Prealb all still pending
   --Low grade temps 100.3, tachy low 100's
   --PS [**10-20**] --> [**10-17**]
   --EEG leads coming off, neuro should probably be notified
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-11-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 113 (94 - 115) bpm
   BP: 108/56(76) {104/51(70) - 127/68(91)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  2,600 mL
                                                                  1,411 mL
   PO:
   TF:
                                                                  1,564 mL
                                                                    459 mL
   IVF:
                                                                    276 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  2,465 mL
   Urine:
                                                                  2,325 mL
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                 -1,054 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (323 - 530) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 34
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.7 L/min
   Physical Examination
   Gen: Pleasant elderly [**Location 5534**] man, chronically ill appearing in
   NAD HEENT: MMM, right eye conjunctiva injected, macular rash around
   orbit, trach in place CV: regular rate, tachycardic Lungs: CTA
   anteriorly [**Last Name (un) 61**]: PEG in place, NABS, soft, ND, NT Extrem: 3+ pitting
   edema b/l, upper extreme >> lower extrem
   Labs / Radiology
   336 K/uL
   9.5 g/dL
   104 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   24 mg/dL
   110 mEq/L
   148 mEq/L
   29.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2101-11-11**]  12:36 AM
                            [**2101-11-11**]  12:56 AM
                            [**2101-11-11**]  06:09 AM
                            [**2101-11-11**]  02:45 PM
                            [**2101-11-12**]  02:42 AM
                            [**2101-11-12**]  04:44 PM
                            [**2101-11-12**]  05:16 PM
                             [**2101-11-13**]  01:47 AM
                             [**2101-11-13**]  04:10 PM
                             [**2101-11-14**]  12:49 AM
   WBC
   11.8
   10.9
   11.4
   10.9
   10.4
   Hct
   32.4
   29.2
   26.5
   27.2
   29.5
   Plt
   [**Telephone/Fax (3) 11155**]43
   336
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.6
   TropT
   0.40
   0.41
   0.41
   0.48
   TCO2
   37
   28
   Glucose
   80
   52
   52
   112
   133
   91
   104
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:33//0.48, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:57.7 %, Lymph:26.2 %, Mono:5.3 %, Eos:10.5 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronciectasis.  Bronch at OSH with
   ?tracheobronchomalacia.  IP plans to preform flexible bronchoscopy once
   medically stabilized, which from our stand point he is. From OSH
   ?Aspergillus in sputum, ?ABPA. Per family report, patient using home O2
   for less than one month prior to going to hospital, seems he was not
   that limited by COPD prior to most recent hospitalization.
   -IP following, will plan on flex bronchoscopy; patient is now medically
   clear
   -f/u IgE levels Aspergillus
   - formal airway CT today
   - wean from vent
   #. Seizure: Presumed seizure since he was unresponsive and twitching.
   No further episodes.
   - EEG pending
   - CT head
   #. Elevated troponins: No CP, Trops stable.  Cards eval, and does not
   require emergent cardiac catheterization. Possible demand ischemia, in
   setting of tachycardia and hypotension.   Beta blocker started
   yesterday.  Lipids normal. Continues tachycardic.  Given concern for
   demand ischemia, will send another troponin today (EKG changes have
   resolved) and see if these are stable or if they are trending down. If
   increasing, will increase beta blocker to decrease demand ischemia
   -Continue ASA
   -When HR decreased so that pacer spikes can be viewed consider EP
   consult
   -Check troponin
   #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency
   -Prednisone 5mg PO daily
   #. Leukocytosis: Trending down still. Patient had mild temperature
   overnight (100.3), sputum culture shows 2 species GNR.  Colonization vs
   infection. Patient also has significant history of diarrhea, C. diff
   neg.  Central line from OSH now pulled. In setting of new fevers, will
   pan-culture again out of concern for possible new infection given that
   patient has been afebrile so far in hosp.
   -repeat pan culture
   -SC tip pending
   -Monitor fever curve
   #. Anasarca: Patient was receiving diuresis at OSH; received up to
   Lasix 80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission to OSH (presumably dry
   weight) was 62 kg.  On Lasix gtt now, very negative already today so
   monitor closely to make sure that he does not become hypotensive. Upper
   arms seem more swollen than lower extremities, will get U/S to r/o DVT
   of upper extremities.
   - Will try to keep patient mildly net negative each day
   - Low dose lasix gtt
   -upper extremity u/s to r/o DVT
   #. Eosinophilia: Presented to OSH with eosinophilia which normalized
   now 14%. Concern for adrenal insufficiency, [**Last Name (un) **] stim test +. Recent
   travel to [**Last Name (LF) **], [**First Name3 (LF) **] be secondary to parasitic infection; however,
   O&P neg TD.  Also concern for drug reaction
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   -Prednisone as above for adrenal insufficiency
   #. Anemia: Hct stable, likely anemia of chronic disease given long
   hospital course; iron studies consistent, with decreased TIBC and
   increased ferritin.
   -Daily HCT, minimize unecassary lab draws
   #. Right eye injection/macular orbital rash: Patient does describe pain
   in right eye, pain with movement, and difficulty with vision. Patient
   was seen by ID & opthomology at OSH, initially on Acyclovir, but optho
   felt that not consistent with herpetic eye involvement, most likely
   chronic conjunctival chemosis. Currently no vesicular rash around eye
   so nothing to biopsy.
   -Ophtho consult today.
   #. Elevated alk phos: Alk phos elevated at 236 on admission, trending
   down to 187 on [**11-13**]. Most likely secondary to shock liver, now
   resolving.
   -Continue to monitor
   #Hypokalemia: Resolved.
   #Hypernatremia: 148
   -Free water flushes just increased to 250cc q4. Continues to be
   hypernatremic. Morning electrolytes still pending. Will f/u morning
   electrolytes, increase free water flushes as needed.
   -Electrolytes again at 4pm today
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   #. FEN: Tube feeds via PEG tube
   #. PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU, screen for rehab later this week
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2101-11-14**] 04:17 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-15 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --Started on prednisone 5mg daily
   --Had a rise in his troponin.  Metoprolol increased to 37.5mg TID to
   prevent demand ischemia.
   --Seen by wound care
   --UE ultrasound wet read: "Small amount of nonocclusive thrombus
   adjacent to the intravenous catheter in the left axillary vein. No DVT
   in the right upper extremity."
   --CT chest: bilateral effusions, diffuse mild bronchial wall thickening
   but no TBM, small pericardial effusion.
   --patient spiked to 101.1 at 9am.  Pan-cultured - negative to date.
   --O+Px3 negative
   --4pm lytes stable with improved hypernatremia.
   --Negative 1L at midnight.
   --Stopped insulin sliding scales as patient not diabetic at baseline
   and has not been requiring insulin.
   -Stopped lasix drip because hypotensive and already significantly
   negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 103 (88 - 111) bpm
   BP: 88/44(60) {76/44(60) - 135/67(87)} mmHg
   RR: 19 (11 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  4,026 mL
                                                                  1,008 mL
   PO:
             TF:
                                                                  1,486 mL
                                                                    279 mL
   IVF:
                                                                    740 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                    435 mL
   Urine:
                                                                  4,135 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,009 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (342 - 784) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 162
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 7.9 L/min
   Physical Examination
   Gen: Chronically ill appearing [**Location 5534**] male, NAD HEENT: Right
   sclera red and injected, macular rash surrounding orbit on right side,
   PEERRL, MMM CV: RRR, no M/R/G Lungs: CTA anteriorly Abdomen: NABS,
   soft, ND, NT, no HSM
   Extrem: edema upper extreme 3+b/l, lower extreme trace edema,
   significantly wasted appearance especially notable in
   Labs / Radiology
   333 K/uL
   9.1 g/dL
   104 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.7 mEq/L
   29 mg/dL
   104 mEq/L
   144 mEq/L
   28.7 %
   10.1 K/uL
        [image002.jpg]
                            [**2101-11-11**]  02:45 PM
                            [**2101-11-12**]  02:42 AM
                            [**2101-11-12**]  04:44 PM
                            [**2101-11-12**]  05:16 PM
                             [**2101-11-13**]  01:47 AM
                             [**2101-11-13**]  04:10 PM
                             [**2101-11-14**]  12:49 AM
                             [**2101-11-14**]  06:27 AM
                             [**2101-11-14**]  03:44 PM
                             [**2101-11-15**]  02:24 AM
   WBC
   10.9
   11.4
   10.9
   10.4
   10.1
   Hct
   29.2
   26.5
   27.2
   29.5
   28.7
   Plt
   [**Telephone/Fax (3) 11187**]36
   333
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   TropT
   0.41
   0.48
   0.59
   TCO2
   28
   Glucose
   52
   52
   112
   133
   91
   104
   100
   128
   104
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:33//0.59, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:57.5 %, Lymph:26.9 %, Mono:7.0 %, Eos:8.2 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronchiectasis.  Bronch at OSH with
   ?tracheobronchomalacia. . CT showed b/l pleural effusions, small/mod on
   right, small on left, diffuse mild bronchial wall thickening and small
   clusters of centrilobular nodules and peribronchovascular ground glass
   opacities suggesting recent infection/inflammation or possibly
   aspiration. Most likely secondary to previous VAP at OSH. No radiologic
   evidence of TBM  From OSH ? Aspergillus in sputum, ?ABPA. Per family
   report, patient using home O2 for less than one month prior to going to
   hospital, seems he was not that limited by COPD prior to most recent
   hospitalization.
   -IP following, if definitively no stenting will inform pulmonologist at
   OSH
   -f/u IgE levels Aspergillus
   - wean from vent
   #. Seizure: Presumed seizure since he was unresponsive and twitching.
   No further episodes. EEG initial report shows no epileptiform activity,
   diffuse slowing consistent with encephalopathy
   - EEG pending
   - CT head
   #. Elevated troponins: No CP; cardiology saw him on arrival, feel does
   not require emergent cardiac catheterization, recommend medical
   management. Possible demand ischemia, in setting of tachycardia and
   hypotension.   Troponin elevated yesterday to 0.59, metoprolol was
   increased out of concern for likely demand ischemia. Also may have poor
   renal function without elevated creatinine in the setting of very
   little muscle mass. Continues tachycardic, slightly improved.
   -Continue ASA
   -When HR decreased so that pacer spikes can be viewed consider EP
   consult
   -Check troponin again and EKG
   -Continue Metoprolol 37.5 TID
   -If troponins trending up will get cardiology consult
   #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency
   -Prednisone 5mg PO daily
   #. Leukocytosis: Trending down still. Patient febrile yesterday to
   101.1, pancultured. No growth to date from any blood or urine.  Sputum
   culture + for pseudomonas; sputum gram stain from yesterday continues +
   for GNR. Colonization vs infection. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   -SC tip pending
   -Monitor fever curve
   #. Anasarca: Patient was receiving diuresis at OSH; received up to
   Lasix 80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission to OSH (presumably dry
   weight) was 62 kg.  No occlusive DVT in upper extremities. On lasix gtt
   for most of yesterday, net negative significantly but then became
   hypotensive.
   -Restart lasix gtt this am, very gentle diuresis
   - Will try to keep patient mildly net negative each day (goal for
   today: -500mL)
   #. Eosinophilia: Presented to OSH with eosinophilia which normalized,
   then at presentation to [**Hospital1 19**] at 14%. Now trending down to 8% on
   prednisone, most likely eosinophilia secondary to adrenal
   insufficiency. Recent travel to [**Last Name (LF) **], [**First Name3 (LF) **] be secondary to
   parasitic infection; however, O&P neg TD.  Also concern for drug
   reaction
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   -Prednisone as above for adrenal insufficiency
   #. Anemia: Hct stable, likely anemia of chronic disease given long
   hospital course; iron studies consistent, with decreased TIBC and
   increased ferritin.
   -Daily HCT, minimize unecassary lab draws
   #. Right eye injection/macular orbital rash: Patient does describe pain
   in right eye, pain with movement, and difficulty with vision. Patient
   was seen by ID & opthomology at OSH, initially on Acyclovir, but optho
   felt that not consistent with herpetic eye involvement, most likely
   chronic conjunctival chemosis. Currently no vesicular rash around eye
   so nothing to biopsy.
   -Consider ophtho consult
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU, screen for rehab later this week
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-16 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dependence on vent
   24 Hour Events:
   - Seen by opht) likely blepheritis, no chemosis, recs: polysporin
   ointment q3hrs, vigamox QID (nonformulary), d/c pilocarpine, will
   follow
   - NOTE: pupils assymetrically dilated, will remain so for several days
   - IP signed off
   - Trops slightly increased from prior 0.59 -> 0.61, however no CP/SOB,
   unclear etiology...
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 95 (89 - 104) bpm
   BP: 115/54(76) {91/50(67) - 121/64(87)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  2,785 mL
                                                                    938 mL
   PO:
             TF:
                                                                    960 mL
                                                                    275 mL
   IVF:
                                                                    391 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    745 mL
   Urine:
                                                                  1,340 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,445 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 471) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 45
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.46/46/86/30/7
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   9.1 g/dL
   92 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   30 mg/dL
   102 mEq/L
   141 mEq/L
   28.7 %
   10.1 K/uL
        [image002.jpg]
                            [**2101-11-12**]  05:16 PM
                             [**2101-11-13**]  01:47 AM
                             [**2101-11-13**]  04:10 PM
                             [**2101-11-14**]  12:49 AM
                             [**2101-11-14**]  06:27 AM
                             [**2101-11-14**]  03:44 PM
                             [**2101-11-15**]  02:24 AM
                             [**2101-11-15**]  12:43 PM
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
   WBC
   10.9
   10.4
   10.1
   Hct
   27.2
   29.5
   28.7
   Plt
   343
   336
   333
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TropT
   0.59
   0.61
   TCO2
   28
   34
   Glucose
   133
   91
   104
   100
   128
   104
   92
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:57.5 %, Lymph:26.9 %, Mono:7.0 %, Eos:8.2 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL  Prealbumin 19 (21-43)
   Microbiology: Blood cx: Pending
   Sputum gram stain: gram negative rods
   Sputum cx: pending
   Urine cx: yeast
   Assessment and Plan
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 .H/O HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronchiectasis.  Bronch at OSH with
   ?tracheobronchomalacia. . CT showed b/l pleural effusions, small/mod on
   right, small on left, diffuse mild bronchial wall thickening and small
   clusters of centrilobular nodules and peribronchovascular ground glass
   opacities suggesting recent infection/inflammation or possibly
   aspiration. Most likely secondary to previous VAP at OSH. No radiologic
   evidence of TBM  From OSH ? Aspergillus in sputum, ?ABPA. Per family
   report, patient using home O2 for less than one month prior to going to
   hospital, seems he was not that limited by COPD prior to most recent
   hospitalization.
   -IP following, if definitively no stenting will inform pulmonologist at
   OSH
   -f/u IgE levels Aspergillus
   - wean from vent
   #. Seizure: Presumed seizure since he was unresponsive and twitching.
   No further episodes. EEG initial report shows no epileptiform activity,
   diffuse slowing consistent with encephalopathy
   - EEG pending
   - CT head
   #. Elevated troponins: No CP; cardiology saw him on arrival, feel does
   not require emergent cardiac catheterization, recommend medical
   management. Possible demand ischemia, in setting of tachycardia and
   hypotension.   Troponin elevated yesterday to 0.59, metoprolol was
   increased out of concern for likely demand ischemia. Also may have poor
   renal function without elevated creatinine in the setting of very
   little muscle mass. Continues tachycardic, slightly improved.
   -Continue ASA
   -When HR decreased so that pacer spikes can be viewed consider EP
   consult
   -Check troponin again and EKG
   -Continue Metoprolol 37.5 TID
   -If troponins trending up will get cardiology consult
   #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency
   -Prednisone 5mg PO daily
   #. Leukocytosis: Trending down still. Patient febrile yesterday to
   101.1, pancultured. No growth to date from any blood or urine.  Sputum
   culture + for pseudomonas; sputum gram stain from yesterday continues +
   for GNR. Colonization vs infection. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   -SC tip pending
   -Monitor fever curve
   #. Anasarca: Patient was receiving diuresis at OSH; received up to
   Lasix 80mg IV BID, then changed to Bumex, which was then d/c'd for
   hypotension. Patient
s weight on admission to OSH (presumably dry
   weight) was 62 kg.  No occlusive DVT in upper extremities. On lasix gtt
   for most of yesterday, net negative significantly but then became
   hypotensive.
   -Restart lasix gtt this am, very gentle diuresis
   - Will try to keep patient mildly net negative each day (goal for
   today: -500mL)
   #. Eosinophilia: Presented to OSH with eosinophilia which normalized,
   then at presentation to [**Hospital1 19**] at 14%. Now trending down to 8% on
   prednisone, most likely eosinophilia secondary to adrenal
   insufficiency. Recent travel to [**Last Name (LF) **], [**First Name3 (LF) **] be secondary to
   parasitic infection; however, O&P neg TD.  Also concern for drug
   reaction
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   -Prednisone as above for adrenal insufficiency
   #. Anemia: Hct stable, likely anemia of chronic disease given long
   hospital course; iron studies consistent, with decreased TIBC and
   increased ferritin.
   -Daily HCT, minimize unecassary lab draws
   #. Right eye injection/macular orbital rash: Patient does describe pain
   in right eye, pain with movement, and difficulty with vision. Patient
   was seen by ID & opthomology at OSH, initially on Acyclovir, but optho
   felt that not consistent with herpetic eye involvement, most likely
   chronic conjunctival chemosis. Currently no vesicular rash around eye
   so nothing to biopsy.
   -Consider ophtho consult
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube, f/u prealbumin.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].
   -Wound care consult
   -Optimize nutrition
   -Frequent repositioning
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ
   -Bowel regimen
   -Pain management with
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU, screen for rehab later this week
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2101-11-15**] 07:25 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-17 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tried calling pulmonologist, Dr. [**First Name4 (NamePattern1) 20**] [**Last Name (NamePattern1) 11237**] ([**Telephone/Fax (1) 11238**], but
   office hours are 10am to 4pm.  Did not leave a message.
   - EP consulted: 1. Normal pacemaker fxn 2. Atrial pacing rate above
   lower rate of 60 seen on [**2101-11-11**] EKG is due to rate adaptive function
   3. No changes made to current settings
   - 6pm I/O's = 1L positive --> given 40mg IV Lasix
   - Talked to Endocrine: Hold morning Prednisone. Get baseline morning
   ACTH, cortisol, PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same
   labs at 30 and 60 mins.
   - Did well on trach mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-11-17**] 01:45 AM
   Heparin Sodium (Prophylaxis) - [**2101-11-17**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (92 - 106) bpm
   BP: 115/56(77) {94/47(66) - 137/73(98)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  3,141 mL
                                                                    950 mL
   PO:
             TF:
                                                                    961 mL
                                                                    288 mL
   IVF:
                                                                    300 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                  1,348 mL
   Urine:
                                                                  2,065 mL
                                                                    848 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,076 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 475 (430 - 762) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/43/67//5
   Ve: 7.9 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   325 K/uL
   8.9 g/dL
   98 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   33 mg/dL
   101 mEq/L
   140 mEq/L
   27.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2101-11-14**]  12:49 AM
                             [**2101-11-14**]  06:27 AM
                             [**2101-11-14**]  03:44 PM
                             [**2101-11-15**]  02:24 AM
                             [**2101-11-15**]  12:43 PM
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
   WBC
   10.4
   10.1
   9.9
   10.7
   Hct
   29.5
   28.7
   28.4
   27.3
   Plt
   [**Telephone/Fax (3) 11239**]25
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.59
   0.61
   TCO2
   34
   32
   Glucose
   104
   100
   128
   104
   92
   98
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:60.4 %, Lymph:24.4 %, Mono:6.2 %, Eos:8.5 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   -IP does not want to stent.  We will discuss this with his OSH
   pulmonologist.
   - He appears euvolemic on exam.  Goal yesterday was even, but patient
   was positive yesterday. Negative this AM.
   - wean from vent as much as possible.  Trial of trach mask went well.
   #. Seizure: One morning had what appeared to be a seizure since he was
   unresponsive and twitching.  No further episodes. EEG initial report
   shows no epileptiform activity, diffuse slowing consistent with
   encephalopathy .  If this recurs we could check a CT head.
   #. Elevated troponins: No CP; cardiology saw him on arrival, felt he
   did not require emergent cardiac catheterization, recommend medical
   management. Possible demand ischemia, in setting of tachycardia and
   hypotension.   Troponin is persistently elevated up to 0.61, metoprolol
   was increased out of concern for likely demand ischemia.  Could have
   poor renal function without elevated creatinine in the setting of very
   little muscle mass.
   -Continue ASA
   -Consult EP with possibility of slowing pacing to allow for more
   effective beta blockade.
   -Check troponin again and EKG
   -Continue Metoprolol 37.5 TID
   -If troponins trending up will get cardiology consult
   #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs.
   -Prednisone 5mg PO daily
   #. Leukocytosis: Now afebrile.  Has had yeast and pseudomonas on urine
   and sputum cultures, likely colonizers. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Anasarca: Improved, though he continues to have UE>LE edema.  An
   ultrasound was negative for an obstructive clot.
   - Goal today is even to slightly negative with lasix prn.
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated. [**Month (only) 51**] be secondary to medications.
   -Minimize unecassary medications (d/c
d antibiotics, PPI, diuretics,
   betablocker)
   -Prednisone as above for adrenal insufficiency
   #. Anemia: Hct stable, likely anemia of chronic disease given long
   hospital course; iron studies consistent, with decreased TIBC and
   increased ferritin.
   -Daily HCT, minimize unecassary lab draws
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Decreased albumin: Measuring prealbumin. Patient most likely
   chronically malnourished given long hospital course. Tube feeds via PEG
   tube.  Prealbumin is slightly depressed, but not extremely low,
   suggesting he is receiving adequate nutrition now.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU, screen for rehab later this week
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2101-11-16**] 08:23 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-18 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Spoke with physician [**Name9 (PRE) 11265**] Dr. [**Last Name (STitle) 11237**] who is aware no stenting
   also needs endocrine f/u. Requested that Dr. [**Last Name (STitle) 11237**] be sent a copy
   of the d/c summary.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2101-11-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2101-11-18**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-18**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 106 (94 - 122) bpm
   BP: 104/54(72) {101/51(70) - 145/70(100)} mmHg
   RR: 21 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  2,412 mL
                                                                    502 mL
   PO:
             TF:
                                                                    962 mL
                                                                    305 mL
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,218 mL
                                                                    295 mL
   Urine:
                                                                  1,718 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    194 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (333 - 580) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   325 K/uL
   8.7 g/dL
   102 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   30 mg/dL
   99 mEq/L
   137 mEq/L
   25.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2101-11-14**]  06:27 AM
                             [**2101-11-14**]  03:44 PM
                             [**2101-11-15**]  02:24 AM
                             [**2101-11-15**]  12:43 PM
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
   WBC
   10.1
   9.9
   10.7
   10.8
   Hct
   28.7
   28.4
   27.3
   25.8
   Plt
   333
   325
   325
   325
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   TropT
   0.59
   0.61
   TCO2
   34
   32
   Glucose
   100
   128
   104
   92
   98
   98
   102
   Other labs: PT / PTT / INR:13.2/26.5/1.1, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:60.4 %, Lymph:24.4 %, Mono:6.2 %, Eos:8.5 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
   #. Respiratory Failure: H/o COPD and s/p trach for failure to wean from
   ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   - He appears euvolemic on exam.  Goal yesterday was negative 500mL, but
   patient was positive yesterday; as SBP 100-140, can give Lasix 40mg IV
   this morning and follow UOP
   - wean from vent as much as possible.  Trial of trach mask went well,
   but then needed some pressure support
   #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs.
   -Prednisone 5mg PO daily
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anasarca: Improved, though he continues to have UE>LE edema.  An
   ultrasound was negative for an obstructive clot.  Lasix given overnight
   made slightly negative this AM.
   - Goal today is negative as tolerated by blood pressure.
   -Give Lasix 40mg IV this morning and follow UOP.
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased ferritin.
   However, given more significant decrease today would like to guiaic
   stool and check reticulocyte count to ensure that bone marrow response
   appropriate.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   -Guiaic stool
   -Retic count
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 37.5 TID
   #. Leukocytosis: Now afebrile.  Has had yeast and pseudomonas on urine
   and sputum cultures, likely colonizers. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated. [**Month (only) 51**] be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: Rehab as soon as bed available ?today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2101-11-17**] 09:19 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-19 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-16**]
   - tried calling pulmonologist, Dr. [**First Name4 (NamePattern1) 20**] [**Last Name (NamePattern1) 11237**] ([**Telephone/Fax (1) 11238**], but
   office hours are 10am to 4pm.  Did not leave a message.
   - EP consulted: 1. Normal pacemaker fxn 2. Atrial pacing rate above
   lower rate of 60 seen on [**2101-11-11**] EKG is due to rate adaptive function
   3. No changes made to current settings
   - 6pm I/O's = 1L positive --> given 40mg IV Lasix
   - Talked to Endocrine: Hold morning Prednisone. Get baseline morning
   ACTH, cortisol, PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same
   labs at 30 and 60 mins.
   - Did well on trach mask
   [**11-17**]
   -Spoke with physician [**Name9 (PRE) 11265**] Dr. [**Last Name (STitle) 11237**] who is aware no stenting
   also needs endocrine f/u. Requested that Dr. [**Last Name (STitle) 11237**] be sent a copy
   of the d/c summary.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2101-11-19**] 07:44 AM
   Furosemide (Lasix) - [**2101-11-19**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-19**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 101 (97 - 108) bpm
   BP: 102/57(74) {96/49(66) - 155/90(117)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  1,073 mL
                                                                     78 mL
   PO:
             TF:
                                                                    393 mL
   IVF:
                                                                    240 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    640 mL
   Urine:
                                                                  1,455 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -382 mL
                                                                   -562 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (329 - 546) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   356 K/uL
   8.8 g/dL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   30 mg/dL
   101 mEq/L
   140 mEq/L
   26.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2101-11-14**]  03:44 PM
                             [**2101-11-15**]  02:24 AM
                             [**2101-11-15**]  12:43 PM
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
                             [**2101-11-19**]  06:00 AM
   WBC
   10.1
   9.9
   10.7
   10.8
   10.5
   Hct
   28.7
   28.4
   27.3
   25.8
   26.9
   Plt
   333
   325
   325
   325
   356
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   0.61
   TCO2
   34
   32
   Glucose
   128
   104
   92
   98
   98
   102
   110
   Other labs: PT / PTT / INR:13.1/25.7/1.1  (today) , CK / CKMB /
   Troponin-T:33/5/0.61   (old) , ALT / AST:17/23   (old) , Alk Phos / T
   Bili:179/0.5, Differential-Neuts:62.2 %, Lymph:24.8 %, Mono:5.6 %,
   Eos:7.1 %, Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9
   g/dL, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: IgE high 141 (0-114)
   prealbumin low 19
   Imaging: no CXR this am
   Microbiology: Aspergillus negative
   Assessment and Plan
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
    #. Respiratory Failure: H/o COPD and s/p trach for failure to wean
   from ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.  Has
   been tolerating trach mask well
   -Will continue to wean from vent, currently on PSV 5/5 with 30% FiO2.
    #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs.
   - Continues on Prednisone 5mg PO daily for now but will need to touch
   base with Endocrine about this dosage and
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anasarca: Improved, though he continues to have UE>LE edema.  An
   ultrasound was negative for an obstructive clot.  Lasix given overnight
   made slightly negative this AM.
   - Goal today is negative as tolerated by blood pressure.
   -Give Lasix 40mg IV this morning and follow UOP.
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased ferritin.
   However, given more significant decrease today would like to guiaic
   stool and check reticulocyte count to ensure that bone marrow response
   appropriate.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   -Guiaic stool
   -Retic count
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 37.5 TID
   #. Leukocytosis: Now afebrile.  Has had yeast and pseudomonas on urine
   and sputum cultures, likely colonizers. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated. [**Month (only) 51**] be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: Rehab as soon as bed available ?today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2101-11-10**] 11:40 PM
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-20 08:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2101-11-19**] 12:16 PM
   Patient awaiting rehab bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-11-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-20**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (93 - 108) bpm
   BP: 105/58(69) {100/51(65) - 131/76(89)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.1 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  1,325 mL
                                                                    582 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    280 mL
   Urine:
                                                                  2,535 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 474 (138 - 567) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 8.5 L/min
   Physical Examination
   Gen: Chronically ill appearing elderly gentleman in NAD
   HEENT: MMM, sclera anicteric, right eye injection improved
   CV: RRR, no M/R/G
   Lungs: CTA anteriorly
   [**Last Name (un) 61**]: NABS, soft, ND, NT
   Extrem: 1pitting edema in UE, trace edema LE
   Labs / Radiology
   359 K/uL
   8.5 g/dL
   103 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   99 mEq/L
   140 mEq/L
   25.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2101-11-15**]  02:24 AM
                             [**2101-11-15**]  12:43 PM
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
                             [**2101-11-19**]  06:00 AM
                             [**2101-11-20**]  05:16 AM
   WBC
   10.1
   9.9
   10.7
   10.8
   10.5
   11.0
   Hct
   28.7
   28.4
   27.3
   25.8
   26.9
   25.2
   Plt
   333
   325
   325
   [**Telephone/Fax (3) 11331**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   TropT
   0.61
   TCO2
   34
   32
   Glucose
   104
   92
   98
   98
   102
   110
   103
   Other labs: PT / PTT / INR:13.0/26.9/1.1, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:62.2 %, Lymph:24.8 %, Mono:5.6 %, Eos:7.1 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
    #. Respiratory Failure: H/o COPD and s/p trach for failure to wean
   from ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   -Will continue to wean from vent, currently on PSV 5/5 with 30% FiO2.
    #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs, currently still pending
   - Continues on Prednisone 5mg PO daily but
   - Need to touch base with Endocrine about predisone dose
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anasarca: Improved, though he continues to have UE>LE edema.  An
   ultrasound was negative for an obstructive clot.  BUN and Cr stable,
   seem to be tolerating aggressive diuresis
   --Goal today is 1-1.5L negative
   --Lasix 40mg IV bid
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased
   ferritin.Retic index 1.17 indicating hypoproliferation.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 25mg PO q6
   #. Leukocytosis: Now afebrile.  Has had yeast and pseudomonas on urine
   and sputum cultures, likely colonizers. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated, though trending down (today 7.1%). [**Month (only) 51**]
   be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: Rehab as soon as bed available ?today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-21 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - f/u with endo re: discharge prednisone dose - put off to tomorrow as
   they had just mentioned that 5mg dose is okay.
   - I/O goal -1L today.  One liter negative at midnight with lasix 40mg
   IVx2 plus third dose of 80mg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-11-20**] 10:40 PM
   Heparin Sodium (Prophylaxis) - [**2101-11-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-21**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 97 (88 - 104) bpm
   BP: 102/53(65) {77/47(52) - 122/74(84)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 67 kg
   Height: 67 Inch
             Total In:
                                                                  2,996 mL
                                                                    900 mL
   PO:
             TF:
                                                                    961 mL
                                                                    253 mL
   IVF:
                                                                    296 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    875 mL
   Urine:
                                                                  2,695 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 274 (274 - 721) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 69
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   392 K/uL
   8.4 g/dL
   102 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.7 mEq/L
   32 mg/dL
   97 mEq/L
   139 mEq/L
   25.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2101-11-15**]  09:50 PM
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
                             [**2101-11-19**]  06:00 AM
                             [**2101-11-20**]  05:16 AM
                             [**2101-11-20**]  04:28 PM
                             [**2101-11-21**]  04:19 AM
   WBC
   9.9
   10.7
   10.8
   10.5
   11.0
   9.2
   Hct
   28.4
   27.3
   25.8
   26.9
   25.2
   25.0
   Plt
   [**Telephone/Fax (3) 11353**]56
   359
   392
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   34
   32
   Glucose
   92
   98
   98
   102
   110
   103
   102
   102
   Other labs: PT / PTT / INR:13.0/26.9/1.1, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:62.2 %, Lymph:24.8 %, Mono:5.6 %, Eos:7.1 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.
    #. Respiratory Failure: H/o COPD and s/p trach for failure to wean
   from ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   -Will continue to wean from vent, currently on PSV 5/5 with 30% FiO2.
    #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs, currently still pending
   - Continues on Prednisone 5mg PO daily but
   - Need to touch base with Endocrine about predisone dose
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anasarca: Improved, though he continues to have UE>LE edema.  An
   ultrasound was negative for an obstructive clot.  BUN and Cr stable,
   seem to be tolerating aggressive diuresis
   --Goal today is 1-1.5L negative
   --Lasix 40mg IV bid
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased
   ferritin.Retic index 1.17 indicating hypoproliferation.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 25mg PO q6
   #. Leukocytosis: Now afebrile.  Has had yeast and pseudomonas on urine
   and sputum cultures, likely colonizers. Patient also has significant
   history of diarrhea, C. diff neg.  Central line from OSH now pulled, no
   growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated, though trending down (today 7.1%). [**Month (only) 51**]
   be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: Rehab as soon as bed available ?today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2101-11-20**] 11:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Failed trach collar trial yesterday
   Appears to be doing well on trache today up in chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-11-21**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2101-11-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-22**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 101 (90 - 104) bpm
   BP: 103/59(69) {88/46(56) - 112/64(76)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 67 kg
   Height: 67 Inch
                  Total In:
                                                                  2,740 mL
                                                                    894 mL
   PO:
                  TF:
                                                                    974 mL
                                                                    274 mL
   IVF:
                                                                    146 mL
   Blood products:
   Total out:
                                                                  1,523 mL
                                                                    410 mL
   Urine:
                                                                  1,523 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,217 mL
                                                                    484 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (364 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   398 K/uL
   9.0 g/dL
   102 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   33 mg/dL
   96 mEq/L
   137 mEq/L
   26.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2101-11-15**]  10:08 PM
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
                             [**2101-11-19**]  06:00 AM
                             [**2101-11-20**]  05:16 AM
                             [**2101-11-20**]  04:28 PM
                             [**2101-11-21**]  04:19 AM
                            [**2101-11-22**]  03:46 AM
   WBC
   9.9
   10.7
   10.8
   10.5
   11.0
   9.2
   10.4
   Hct
   28.4
   27.3
   25.8
   26.9
   25.2
   25.0
   26.0
   Plt
   [**Telephone/Fax (3) 11353**]56
   359
   392
   398
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   34
   32
   Glucose
   98
   98
   102
   110
   103
   102
   102
   102
   Other labs: PT / PTT / INR:13.0/26.9/1.1, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:62.2 %, Lymph:24.8 %, Mono:5.6 %, Eos:7.1 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Radiology:
   CXR [**11-21**] preliminary read shows no change.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.  Continues
   to fail trache mask trials.
    #. Respiratory Failure: H/o COPD and s/p trach for failure to wean
   from ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   Patient did not tolerate trache mask trial for past two days. However,
   today patient appears to be doing well on trache mask trial up in
   chair. CXR today current wet read states not changed from previously.
   Make sure that up in chair when trache masking.
   -Will continue to wean from vent, currently on PSV 5/5 with 30% FiO2.
   -PT consult to work with patient for strength, out of bed.
   #. Anasarca: Improved.  An ultrasound was negative for an obstructive
   clot.  BUN and Cr stable, seem to be tolerating aggressive diuresis
   --Goal today is even/mildly negative  (-250 mL)
   --Lasix 40mg IV bid
    #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs, currently still pending
   - Continues on Prednisone 5mg PO daily per endocrine
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased
   ferritin.Retic index 1.17 indicating hypoproliferation.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 25mg PO q6
   #. Leukocytosis: Now afebrile. WBC count trending down.  Has had yeast
   and pseudomonas on urine and sputum cultures, likely colonizers.
   Patient also has significant history of diarrhea, C. diff neg.  Central
   line from OSH now pulled, no growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated, though trending down (today 7.1%). [**Month (only) 51**]
   be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   - Check CBC with diff tomorrow
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   -Check albumin
   -Make sure that tube feeds optimized.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: ICU until can tolerate trache mask better
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2101-11-21**] 08:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-23 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
- Mr. [**Known lastname 11393**] [**Last Name (Titles) 7198**] cuff deflation and PMV placement, able to speak. Speech an
d swallow recommended video swallow eval prior to initiation of PO diet, however
 felt that he did well without aspiration during PO trial.
- OOB to chair, on trach mask, looking improved
- PT consult
- Lasix 40mg [**Hospital1 7**], goal even to 500cc negative  --> 5pm 1L positive
-Removed trach and did not desat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-11-22**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2101-11-23**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-23**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 114 (86 - 114) bpm
   BP: 104/55(68) {79/42(56) - 128/69(83)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 67 kg
   Height: 67 Inch
                  Total In:
                                                                  2,445 mL
                                                                    291 mL
   PO:
                  TF:
                                                                    965 mL
                                                                    261 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    250 mL
   Urine:
                                                                  1,570 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 575 (575 - 575) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 6.2 L/min
   Physical Examination
   Gen: Chronically ill appearing Cape-Verdian speaking male in NAD, lying
   in bed with trach mask collar on,
   HEENT: right eye injection improved
   CV: RRR, no M/R/G
   Lungs:  decreased breath sounds at bases
   [**Last Name (un) 61**]: NABS, soft, ND, NT
   Extrem: trace edema upper extremities, moving all extremities actively
   Labs / Radiology
   473 K/uL
   9.3 g/dL
   108 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.9 mEq/L
   32 mg/dL
   97 mEq/L
   138 mEq/L
   27.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2101-11-16**]  06:09 AM
                             [**2101-11-16**]  03:27 PM
                             [**2101-11-17**]  06:10 AM
                             [**2101-11-18**]  03:23 AM
                             [**2101-11-19**]  06:00 AM
                             [**2101-11-20**]  05:16 AM
                             [**2101-11-20**]  04:28 PM
                             [**2101-11-21**]  04:19 AM
                            [**2101-11-22**]  03:46 AM
                            [**2101-11-23**]  05:12 AM
   WBC
   9.9
   10.7
   10.8
   10.5
   11.0
   9.2
   10.4
   9.5
   Hct
   28.4
   27.3
   25.8
   26.9
   25.2
   25.0
   26.0
   27.5
   Plt
   [**Telephone/Fax (3) 11353**]56
   359
   392
   398
   473
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   32
   Glucose
   98
   98
   102
   110
   103
   102
   102
   102
   108
   Other labs: PT / PTT / INR:13.0/26.9/1.1, CK / CKMB /
   Troponin-T:33/5/0.61, ALT / AST:17/23, Alk Phos / T Bili:179/0.5,
   Differential-Neuts:57.9 %, Lymph:27.8 %, Mono:5.6 %, Eos:8.1 %,
   Fibrinogen:329 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 EDEMA, PERIPHERAL
 PLEURAL EFFUSION, CHRONIC
 ANEMIA, CHRONIC
 RASH
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERNATREMIA (HIGH SODIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   80M with PMHx significant for COPD, s/p long hospital course at OSH
   with multiple complications, including VAP, failure to wean from
   ventilator, s/p trach and PEG placement, sent from OSH for IP
   assessment for possible stenting of ?tracheobronchomalacia.  Continues
   to fail trache mask trials.
    #. Respiratory Failure: H/o COPD and s/p trach for failure to wean
   from ventilator also with bronchiectasis.  CT here showed only findings
   suggestive of infection and no TBM.  Per family report, patient using
   home O2 for less than one month prior to going to hospital, seems he
   was not that limited by COPD prior to most recent hospitalization.
   Patient did well on trache mask trial up in chair yesterday, removed
   trache yesterday evening and [**Doctor Last Name 7198**] this well without drop in
   oxygenation per nursing. Make sure that up in chair when trache
   masking.
   -Will continue to wean from vent, currently on PSV 5/5 with 30% FiO2.
   -PT consult to work with patient for strength, out of bed.
   #Hypotension: Has been having episodes of hypotension. [**Month (only) 51**] have been
   over-diuresed.
   - 500 ml NS bolus
   - If not responding to bolus will increase Prednisone 10 mg PO daily as
   it may be secondary to adrenal insufficiency
    #Adrenal insufficiency: Cortisotropin syn test + for adrenal
   insufficiency. Per Endocrine recs, got baseline morning ACTH, cortisol,
   PRA, [**Male First Name (un) **], then give 250mcg Cosyntropin, then the same labs at 30 and
   60 mins. Will f/u these labs, currently still pending
   - Continues on Prednisone 5mg PO daily per endocrine
   -Will need outpatient appointment for F/u with Endocrine, outpatient
   pulmonologist aware, will include in d/c summary as well.
   #. Anemia: Likely anemia of chronic disease given long hospital course;
   iron studies consistent, with decreased TIBC and increased
   ferritin.Retic index 1.17 indicating hypoproliferation.
   -Daily HCT, minimize unecassary lab draws
   -Active T&S.
   # Tachycardic: Elevated troponins, no CP; cardiology saw him on
   arrival, felt he did not require emergent cardiac catheterization,
   recommend medical management. Possible demand ischemia, in setting of
   tachycardia and hypotension.   Troponin is persistently elevated up to
   0.61.  Metoprolol was increased out of concern for likely demand
   ischemia.  Could have poor renal function without elevated creatinine
   in the setting of very little muscle mass.
   -Continue ASA
   -Continue Metoprolol 25mg PO q6
   #. Leukocytosis: Now afebrile. WBC count stable.  Has had yeast and
   pseudomonas on urine and sputum cultures, likely colonizers. Patient
   also has significant history of diarrhea, C. diff neg.  Central line
   from OSH now pulled, no growth to date.
   - No antibiotics for now.
   -Monitor fever curve
   #. Eosinophilia: Thought to be due to adrenal insufficiency; however,
   still continues to be elevated. [**Month (only) 51**] be secondary to medications.
   -Minimize unecassary medications
   -Prednisone as above for adrenal insufficiency
   - Check CBC with diff tomorrow
   #. Right eye injection/macular orbital rash: Seen by ophtho who said
   that this is likely blepharitis and that the pilocarpine may have been
   worsening his discomfort.  They changed his drops to bacitracin and
   vigamox which seems to be helping.
   #Ulcers: Patient has stage III decubitus ulcer on sacrum/coccyx with
   minimal amount of serous drainage, and Stage IV ulcer on left ear helix
   with very scant amount of serous drainage. Patient also has circular
   healed pressure ulcer to right post acromium process. All present on
   arrival to [**Hospital1 19**].   Wound care is following and he is being frequently
   repositioned.
   -Check albumin
   -Make sure that tube feeds optimized.
   #. FEN: Tube feeds via PEG tube, free water flushes 250 cc q4
   #. PPX:
   -DVT ppx with: Heparin SQ and pneumoboots.
   -Bowel regimen PRN
   -Ulcer ppx with ranitidine.
   #. ACCESS: PICC
   #. CODE STATUS: No right heart cath, full code.
   #. EMERGENCY CONTACT: [**Name (NI) **] is married, however wife not [**Name2 (NI) 2681**]
   speaking; patient's sister suggests patient's daughter [**Name (NI) 11128**] should be
   primary contact person, lives with mother and aware of wishes.
   #. DISPOSITION: Rehab ASAP. As patient currently tolerating not being
   on trache mask even right now may consider calling out to the floor
   later if continues to look good on RA.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2101-11-22**] 08:48 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2101-11-13**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: